US04743602
cis-2,6-Dimethylmorpholine (6.6 g, 0.057 mol) was added dropwise to a solution of 2-(5-t-butylthiophen-2-yl)-cyclopropanecarbonyl chloride (2.50 g, 0.01 mol) in sodium dried ether (20 ml) at 10° C. and after complete addition the solution was stirred at 20° C. for 3 hours. The reaction mixture was poured into water and extracted with diethyl ether (2×75 ml). The ethereal extracts were washed with water, dried over anhydrous sodium sulphate, and the solvent removed to give 2-(5-t-butylthiophen-2-yl)-cyclopropanecarbonyl-2,6-cis-dimethylmorpholine as a yellow oil. This oil was separated by column chromatography (silica eluted with petroleum ether/ethyl acetate 1:1) to give 2-(5-t-butylthiophen-2-yl)-trans-cyclopropanecarbonyl)-2,6-cis-dimethylmorpholine (1.70 g, 53%) and 2-(5-t-butylthiophen-2-yl)-cis-cyclopropanecarbonyl)-2,6-cis-dimethylmorpholine (0.94 g, 29%).

reactant | cis-2,6-Dimethylmorpholine | 0.057 mol, 6.6 g | C[C@@H]1CNC[C@@H](O1)C | C6H13NO
reactant | 2-(5-t-butylthiophen-2-yl)-cyclopropanecarbonyl chloride | 0.01 mol, 2.50 g | C(C)(C)(C)C1=CC=C(S1)C1C(C1)C(=O)Cl | C12H15ClOS
reactant | water | O | H2O
solvent | sodium | 20 ml | [Na] | Na
product | 2-(5-t-butylthiophen-2-yl)-cyclopropanecarbonyl-2,6-cis-dimethylmorpholine | C(C)(C)(C)C1=CC=C(S1)C1C(C1)C(=O)N1C[C@H](O[C@H](C1)C)C | C18H27NO2S
